US07560558B2
Compound 420: 6,7-Dimethoxy-4-(quinolin-2-ylsulfanyl)-quinoline
2-Quinolinethiol (87 mg) and 4-chloro-6,7-dimethoxyquinoline (100 mg) were suspended in acetonitrile (3 ml), and the suspension was stirred at room temperature overnight. The solvent was removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was neutralized with sodium hydrogencarbonate and was then extracted with chloroform. The chloroform layer was washed with water and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give the title compound (15 mg, yield 10%).

reactant | 2-Quinolinethiol | 87 mg | N1=C(C=CC2=CC=CC=C12)S | C9H7NS
reactant | 4-chloro-6,7-dimethoxyquinoline | 100 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 6,7-Dimethoxy-4-(quinolin-2-ylsulfanyl)-quinoline | 15 mg, yield 10% | COC=1C=C2C(=CC=NC2=CC1OC)SC1=NC2=CC=CC=C2C=C1 | C20H16N2O2S
